US04540564
To a solution of 1.97 g (10 mmol) of tryptamine hydrochloride and 1.23 g (10 mmol) of nicotinic acid in 10 ml of dry pyridine at 0° C. were added 2.20 g (10.7 mmol) of dicyclohexylcarbodiimide. The reaction mixture was stirred at room temperature for 24 hrs, and the formed dicyclohexylurea was removed by filtration (2.34 g). The pyridine was removed in vacuo, and 10 ml of methanol were added to the residue. Insoluble dicyclohexylurea in methanol was removed by filtration (0.05 g). The methanol was removed in vacuo and 10 ml of methylene chloride was added to the residue. Insoluble compound in methylene chloride was removed by filtration (0.04 g). The methylene chloride was removed in vacuo and the residue was crystallized from isopropanol. Recrystallization from methanol/isopropanol gave 1.92 g (72.5%) of N-[2-(3-indolyl)ethyl]nicotinamide as pale brown plates, m.p. 150°-152° C. IR (KBr) 3280, 3050, 2940, 1646, 1526, 1412, 1302, 1102, 740, 697 cm-1. Anal. calc. for C16H15N3O: C, 72.42; H, 5.91; N, 15.84. Found: C, 72.51; H, 5.74; N, 15.77.

reactant | tryptamine hydrochloride | 10 mmol, 1.97 g | Cl.NCCC1=CNC2=CC=CC=C12
reactant | nicotinic acid | 10 mmol, 1.23 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | dicyclohexylcarbodiimide | 10.7 mmol, 2.20 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(3-indolyl)ethyl]nicotinamide | 1.92 g, 72.5% | N1C=C(C2=CC=CC=C12)CCNC(C1=CN=CC=C1)=O | C16H15N3O
